US08957062B2
Step A: 1-methylcyclopropyl 4-[(1R,2S)-2-(2-{[5-(1H-1,2,4-triazol-1-yl)pyridin-2-yl]oxy}ethyl)cyclopropyl]piperidine-1-carboxylate
To a stirred solution of 1-methylcyclopropyl 4-[(1R,2S)-2-(2-hydroxyethyl)cyclopropyl)piperidine-1-carboxylate (100 mg, 0.37 mmol) in DMF (5 mL) was added NaH (22 mg, 0.56 mmol) in small portions. After total addition, the grey solution was stirred at RT for 10 minutes and then cooled to −26° C. via dry ice/methanol bath. A solution of 5-(1H-1,2,4-triazole-1-yl)pyridin-2-ol (120 mg, 0.74 mmol) in DMF (0.5+0.5 mL) was added via syringe drop-wise and the resulting mixture was stirred for 30 minutes. The reaction was quenched with a cold solution of NH4Cl (10 mL) via syringe. Water (10 mL) was added and the mixture was extracted with EtOAc (2×30 mL). The organics were combined, dried by MgSO4, filtered, and concentrated under reduced pressure. The residue was purified via flash column chromatography (80 g silica gel, ISCO, eluant 5% methanol in DCM) to afford the product after being concentrated to dryness under reduced pressure. LC/MS (m/z): 412 (M+H)±. LC/MS (m/z): 424 (M+H)+. GPR119 Human EC50: 0.88 nM

reactant | 1-methylcyclopropyl 4-[(1R,2S)-2-(2-hydroxyethyl)cyclopropyl)piperidine-1-carboxylate | 0.37 mmol, 100 mg | OCC[C@H]1[C@H](C1)C1CCN(CC1)C(=O)OC1(CC1)C | C15H25NO3
reactant | NaH | 0.56 mmol, 22 mg | [H-].[Na+]
reactant | 5-(1H-1,2,4-triazole-1-yl)pyridin-2-ol | 0.74 mmol, 120 mg | N1(N=CN=C1)C=1C=CC(=NC1)O | C7H6N4O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 1-methylcyclopropyl 4-[(1R,2S)-2-(2-{[5-(1H-1,2,4-triazol-1-yl)pyridin-2-yl]oxy}ethyl)cyclopropyl]piperidine-1-carboxylate | N1(N=CN=C1)C=1C=CC(=NC1)OCC[C@H]1[C@H](C1)C1CCN(CC1)C(=O)OC1(CC1)C | C22H29N5O3
